US07247734B2
This compounds was synthesised in the same manner as described above. 6-Chloro-3-[3-(2-fluoro-ethoxy)-phenyl]-7-hydroxy-chromen-4-one (0.2 g, 0.6 mmol), hydrazine hydrate (2.5 ml), ethanol (10 ml). The quenched solution was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give an oil which was purified by column chromatography to give 4-Chloro-6-{4-[3-(2-fluoro-ethoxy)-phenyl]-1H-pyrazol-3-yl}-benzene-1,3-diol as an off white solid (0.12 g, 57.3%); Rf 0.5 cf SM 0.85 ethyl acetate/hexane (80/20).

reactant | 6-Chloro-3-[3-(2-fluoro-ethoxy)-phenyl]-7-hydroxy-chromen-4-one | 0.6 mmol, 0.2 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=CC=C1)OCCF)=O | C17H12ClFO4
reactant | hydrazine hydrate | 2.5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Chloro-6-{4-[3-(2-fluoro-ethoxy)-phenyl]-1H-pyrazol-3-yl}-benzene-1,3-diol | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=CC(=CC=C1)OCCF)O)O | C17H14ClFN2O3
